US08221905B2
3-(5-Chloro-2-methoxyphenyl)pyridin-2-amine (5.00 g, 21 mmol) was dissolved in the mixture of THF (409 mL), HBF4 (50% aqueous solution, 36 mL) and 15 mL of water. The solution was cooled to −5° C., and sodium nitrite (1.70 g in 20 mL of water) was added dropwise. Reaction was kept 1 hour at −5° C., then was allowed to warm up to room temperature and stirred overnight at room temperature. Then pH of the reaction mixture was adjusted to 10, and it was extracted with ethyl acetate (4×25 mL). Organic fractions were combined, dried over sodium sulfate and evaporated. The residue was subjected to column chromatography on silica gel, eluent hexane/ethyl acetate 9/1 mixture. Chromatography product contained 3-(5-chloro-2-methoxyphenyl)-2-fluoropyridine, pure 6-chlorobenzofuro[2,3-b]pyridine (1.52 g, colorless long needles) was obtained by crystallization from hexane/ethyl acetate.

reactant | 3-(5-Chloro-2-methoxyphenyl)pyridin-2-amine | 21 mmol, 5.00 g | ClC=1C=CC(=C(C1)C=1C(=NC=CC1)N)OC | C12H11ClN2O
reactant | sodium nitrite | 20 mL, 1.70 g | N(=O)[O-].[Na+]
solvent | THF | 409 mL | C1CCOC1 | C4H8O
solvent | HBF4 | 36 mL | [H+].[B-](F)(F)(F)F
solvent | water | 15 mL | O | H2O
product | 6-chlorobenzofuro[2,3-b]pyridine | 1.52 g | ClC=1C=CC2=C(C1)C=1C(=NC=CC1)O2 | C11H6ClNO
